US07875600B2
4-Chloro-6-(5-methyl-2-furyl)pyrimidine-2-amine
A solution of 2-methylfuran (11 mL, 122 mmol) and N,N,N′,N′-tetramethylethylenediamine (18.4 mL, 122 mmol) in anhydrous THF (500 mL) at −78° C. under nitrogen was treated with n-butyl lithium (48.8 mL, 122 mmol), stirred at −78° C. for 20 min, warmed to 0° C. for 30 min and then warmed to room temperature for 15 min. The reaction was cooled to −78° C., treated with trimethyl borate (27.4 ml, 244 mmol), warmed to room temperature, treated with MeOH (100 mL) and water (5 mL), stirred at room temperature for 30 min and concentrated in vacuo. The residue was treated with MeOH (3×100 mL) and concentrated in vacuo after each addition to give the boronic ester as an orange gum. A solution of 2-amino-4,6-dichloropyrimidine (20 g, 122 mmol) in THF (1 L) was treated with saturated aqueous NaHCO3 (250 mL), a solution of the above boronic ester (122 mmol) in THF (50 mL) and tetrakis(triphenylphosphine)palladium (6.93 g, 6 mmol), stirred at 70° C. for 20 h, cooled, extracted with EtOAc (2×100 mL), washed with water (200 mL) and the combined organic phase dried (MgSO4) and concentrated in vacuo to give the product (24.5 g, 96%) as a yellow solid; NMR δH (400 MHz, DMSO) 2.37 (3H, s), 6.32-6.33 (1H, m), 6.89 (1H, s), 7.11 (2H, s) and 7.18-7.19 (1H, m).

reactant | 2-amino-4,6-dichloropyrimidine | 122 mmol, 20 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | NaHCO3 | 250 mL | C(=O)(O)[O-].[Na+]
reactant | THF | 1 L | C1CCOC1 | C4H8O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 6 mmol, 6.93 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Chloro-6-(5-methyl-2-furyl)pyrimidine-2-amine | 24.5 g, 96% | ClC1=NC(=NC(=C1)C=1OC(=CC1)C)N | C9H8ClN3O
